US08937087B2
To a mixture of 2-amino-3-fluorophenol (2.07 g) and dichloromethane (100 mL) were added TEA (2.29 mL) and methyl chloroformate (1.27 mL) under ice-cooling, followed by stirring at room temperature for 3 hours. The reaction mixture was ice-cooled, and 0.5 M hydrochloric acid solution was added thereto, followed by stirring for 10 minutes. Then, the organic layer was separated. The organic layer was washed with brine, dried over Na2SO4, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: Hex/EtOAc=100/0-75/25) to obtain methyl (2-fluoro-6-hydroxyphenyl)carbamate (2.55 g).

reactant | 2-amino-3-fluorophenol | 2.07 g | NC1=C(C=CC=C1F)O | C6H6FNO
reactant | methyl chloroformate | 1.27 mL | ClC(=O)OC | C2H3ClO2
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | methyl (2-fluoro-6-hydroxyphenyl)carbamate | 2.55 g | FC1=C(C(=CC=C1)O)NC(OC)=O | C8H8FNO3
